US09029545B2
Ethyl 4-amino-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylate
To a solution of 2-amino-5-methyl-3-thiophenecarbonitrile (5 g, 36.2 mmol), ethyl 3-oxobutanoate (5.49 mL, 43.4 mmol) in toluene (200 mL) was added SnCl4 (5.10 mL, 43.4 mmol). The resulting mixture was refluxed for 2 h after which the heater was switched off. SnCl4 (2.123 mL, 18.09 mmol) was added and the mixture refluxed for another 4 h. The solution was cooled and aqueous NaOH (5M) was added until the solution turned basic. Ethyl acetate (100 mL) was added and washed with water (3×30 mL). The organic layer was dried over MgSO4, filtered and solvent removed in vacuo. Purification by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane afforded the title compound (6.48 g). LCMS (A) m/z: 251 [M+1]+, Rt 0.74 min (acidic).

reactant | 2-amino-5-methyl-3-thiophenecarbonitrile | 36.2 mmol, 5 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | ethyl 3-oxobutanoate | 43.4 mmol, 5.49 mL | O=C(CC(=O)OCC)C | C6H10O3
reactant | SnCl4 | 43.4 mmol, 5.10 mL | Cl[Sn](Cl)(Cl)Cl
reactant | SnCl4 | 18.09 mmol, 2.123 mL | Cl[Sn](Cl)(Cl)Cl
reactant | NaOH | 5M | [OH-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-amino-2,6-dimethylthieno[2,3-b]pyridine-5-carboxylate | 6.48 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2)C | C12H14N2O2S
